US07968715B2
5 mmol of 1-aminonaphthalene-2-thiol was added to 20 ml of water, and 20 mg of sodium dodecylsulfate was added while agitating to obtain a uniform mixture. 7.5 mmol of acetic anhydride was added for 5 minutes. A precipitation product was obtained in 5-10 minutes. The precipitation product was filtrated and rinsed with 1 ml of water twice followed by drying under vacuum. A non-precipitated reaction mixture was extracted with 25 ml of ethyl acetate twice. The separated organic layer was dried with anhydrous sodium sulfate, and a solvent was removed using a rotatary evaporator under a reduced pressure to obtain 2-methyl naphtothiazole at a yield of 70%.

reactant | 1-aminonaphthalene-2-thiol | 5 mmol | NC1=C(C=CC2=CC=CC=C12)S | C10H9NS
reactant | sodium dodecylsulfate | 20 mg | C(CCCCCCCCCCC)OS(=O)(=O)[O-].[Na+]
reactant | acetic anhydride | 7.5 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 20 ml | O | H2O
product | 2-methyl naphtothiazole | yield of 70% | CC=1SC2=C(N1)C1=CC=CC=C1C=C2 | C12H9NS
